US08211927B2
A solution of 3-amino-3-(3-methoxyphenyl)propanoic acid (2.0 g, 10.0 mmol) in trifluoroacetic acid (15 mL) was stirred for 15 minutes. Trifluoroacetic anhydride (15 mL) was added and the reaction mixture was heated to reflux for 3 hours. The volatiles were removed in vacuo, the residue was triturated with water and the resulting yellow solid was collected by vacuum filtration. Recrystallization with diethyl ether yielded 2,2,2-trifluoro-N-(6-methoxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetamide (1.3 g, 4.8 mmol). 1H-NMR (300 MHz, DMSO-d6) δ ppm: 9.95 (bd, 1H), 7.62 (m, 1H), 7.05 (m, 2H), 5.60 (m, 1H), 3.88 (s, 3H), 3.05 (dd, 1H), 2.55 (m, 1H).

reactant | 3-amino-3-(3-methoxyphenyl)propanoic acid | 10.0 mmol, 2.0 g | NC(CC(=O)O)C1=CC(=CC=C1)OC | C10H13NO3
reactant | Trifluoroacetic anhydride | 15 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2,2,2-trifluoro-N-(6-methoxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetamide | 4.8 mmol, 1.3 g | FC(C(=O)NC1CC(C2=CC=C(C=C12)OC)=O)(F)F | C12H10F3NO3
